datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1][C:2]([O:3][H:8])([H:6])[H:7])([H:4])[H:5].[O:9]([O:10][H:12])[H:11]>>[C:0](=[C:1]([C:2]([O:3][H:8])([H:6])[H:7])[H:11])([H:4])[H:5].[O:9][O:10][H:12],10.807272
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([S:3][H:11])[H:7])([H:4])([H:5])[H:6].[C:12]([H:13])([H:14])[H:15]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[S:3][H:11])([H:4])([H:5])[H:6].[H:7][C:12]([H:13])([H:14])[H:15],14.3511
[C:0]([c:1]1[c:2]([H:9])[c:3]([H:10])[c:4]([H:11])[c:5]([H:12])[c:6]1[H:13])([H:7])[H:8].[O:14]>>[C:0]([c:1]1[c:2]([H:9])[c:3]([H:10])[c:4]([H:11])[c:5]([H:12])[c:6]1[H:13])([H:7])([H:8])[O:14],0.0
[C:0](#[C:1][S:2][H:4])[H:3].[C:5]([H:6])([H:7])[H:8]>>[C:0](#[C:1][S:2])[H:3].[H:4][C:5]([H:6])([H:7])[H:8],-7.5312
[C:0]([N:1][C:2]([H:6])([H:7])[H:8])([H:3])([H:4])[H:5].[H:9]>>[C:0](=[N:1][C:2]([H:6])([H:7])[H:8])([H:4])[H:5].[H:3][H:9],0.0
[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])[H:6])[H:5].[C:8]([C:9](=[S:10])[H:14])([H:11])([H:12])[H:13]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])([H:6])[H:14])[H:5].[C:8]([C:9]=[S:10])([H:11])([H:12])[H:13],75.312
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]([H:25])([H:26])[C:9]1([H:27])[H:28])[H:17])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:18])[C:5]([H:19])([H:20])[C:6]([H:22])[C:7]([H:23])([H:24])[C:8]([H:25])([H:26])[C:9]1([H:27])[H:28])([H:17])[H:21])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12],120.026408
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[c:7]1[c:8]([H:13])[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]1[H:17]>>[C:0](=[C:1]=[C:2]([H:5])[H:6])[H:4].[H:3][c:7]1[c:8]([H:13])[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]1[H:17],-7.1128
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8]([C:9]([H:16])([H:17])[H:18])=[C:10]([C:11]([H:19])([H:20])[H:21])[C:12]([H:22])([H:23])[H:24])[H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:8]([C:7](=[C:6]([H:13])[H:14])[H:15])([C:9]([H:16])([H:17])[H:18])[C:10]([C:11]([H:19])([H:20])[H:21])[C:12]([H:22])([H:23])[H:24])[H:3],46.6516
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([C:10]([C:11]([H:16])([H:17])[H:18])[C:12]([H:19])([H:20])[H:21])([H:13])([H:14])[H:15]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])([H:4])[C:10]([C:9]([H:13])([H:14])[H:15])([C:11]([H:16])([H:17])[H:18])[C:12]([H:19])([H:20])[H:21],8.95376
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:4])([H:5])[H:6].[C:14]([C:15]([O:16][O:17])([H:21])[H:22])([H:18])([H:19])[H:20]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:5])[H:6].[H:4][O:17][O:16][C:15]([C:14]([H:18])([H:19])[H:20])([H:21])[H:22],71.79744
[C:0](#[C:1][C:2]([C:3]([H:15])([H:16])[H:17])[C:4]([C:5]([C:6]([C:7]([C:8](=[C:9]([H:25])[H:26])[H:24])=[C:10]([C:11]([H:27])([H:28])[H:29])[C:12]#[C:13][H:30])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])[H:14]>>[C:0](#[C:1][C:2]1([C:3]([H:15])([H:16])[H:17])[C:4]([H:18])([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([C:8](=[C:9]([H:25])[H:26])[H:24])[C:10]1([C:11]([H:27])([H:28])[H:29])[C:12]#[C:13][H:30])[H:14],57.53
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:5])[H:6].[O:15][O:16][H:17]>>[C:0](=[C:1]([C:2]([H:8])[H:9])[C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:5])[H:6].[H:7][O:15][O:16][H:17],58.19944
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])=[C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:18])[H:14])([H:12])[H:13].[C:24](=[C:25]([C:26]([C:27]([H:33])([H:34])[H:35])[C:28](=[C:29]([H:37])[H:38])[H:36])[H:32])([H:30])[H:31]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])[C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])([H:18])[C:26]([C:25](=[C:24]([H:30])[H:31])[H:32])([C:27]([H:33])([H:34])[H:35])[C:28](=[C:29]([H:37])[H:38])[H:36])[H:14])([H:12])[H:13],61.7977
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11](=[C:12]([H:17])[H:18])[C:13]([H:19])([H:20])[H:21])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:12]([C:11]([C:10](=[C:9]([H:14])[H:15])[H:16])[C:13]([H:19])([H:20])[H:21])([H:17])[H:18])[H:4],22.4262
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[S:15]([C:16]([c:17]1[c:18]([H:25])[c:19]([H:26])[c:20]([H:27])[c:21]([H:28])[c:22]1[H:29])[H:24])[H:23]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:7])([H:5])[H:6].[H:8][C:16]([S:15][H:23])([c:17]1[c:18]([H:25])[c:19]([H:26])[c:20]([H:27])[c:21]([H:28])[c:22]1[H:29])[H:24],25.104
[N:0]([C:1](=[O:2])[H:5])([H:3])[H:4].[N:6]([H:7])[H:8]>>[H:5][N:6]([H:7])[H:8].[N:0]([C:1]=[O:2])([H:3])[H:4],20.92
[C:0](=[C:1]([C:2](=[O:3])[H:7])[H:6])([H:4])[H:5].[C:8](=[C:9]([H:11])[H:12])[H:10]>>[C:0](=[C:1]([C:2]=[O:3])[H:6])([H:4])[H:5].[H:7][C:8](=[C:9]([H:11])[H:12])[H:10],35.31296
